US08124578B2
a) Preparation of (+)-(2R,3R)-2,3-bis(dodecyloxy)-N,N,N′,N′-tetramethylsuccinamide
Sodium hydride (3.60 g, 60%, 90.0 mmol) was washed with pentane (3×) before DMF (150 ml) and (+)-(2R,3R)-2,3-dihydroxy-N,N,N′,N′-tetramethylsuccinamide (9.2 g, 45.0 mmol, origin: Aldrich) were added. The reaction mixture was left stirring at room temperature for 90 min, then a solution of 1-iodododecane (28.0 g, 94.5 mmol) in DMF (50 ml) was added. The reaction was left stirring for another 2 h at room temperature and then heated at 80° C. overnight. After cooling to room temperature, the reaction mixture was extracted with ether (4×), washed with water (2×), dried (Na2SO4), and concentrated. Column chromatography (SiO2, dichloromethane/acetone 3:1) gave 5.93 g (28%) of a pale-yellow solid.

reactant | Sodium hydride | 90.0 mmol, 3.60 g | [H-].[Na+]
reactant | (+)-(2R,3R)-2,3-dihydroxy-N,N,N′,N′-tetramethylsuccinamide | 45.0 mmol, 9.2 g | O[C@@H](C(=O)N(C)C)[C@H](C(=O)N(C)C)O | C8H16N2O4
reactant | 1-iodododecane | 94.5 mmol, 28.0 g | ICCCCCCCCCCCC | C12H25I
solvent | pentane | CCCCC | C5H12
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (+)-(2R,3R)-2,3-bis(dodecyloxy)-N,N,N′,N′-tetramethylsuccinamide | 5.93 g, 28% | C(CCCCCCCCCCC)O[C@@H](C(=O)N(C)C)[C@H](C(=O)N(C)C)OCCCCCCCCCCCC | C32H64N2O4
